US08809525B2
6-bromo-5-(4-fluorophenyl)-1,2,4-triazin-3-amine (1 molar eq.), 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-6-methylpyridine (1 molar eq.) and K2CO3 (1.5 molar eq.) are suspended in a mixture of 1,4-dioxane and water (2:1; 10 mL of solvent per gram of bromotriazine). The resulting mixture is degassed, treated with dichlorobis[di-tert-butyl(4-dimethylaminophenyl)phosphino]palladium(II) (2 mol %) and refluxed until full consumption of bromotriazine is observed by LCMS. The cooled reaction mixture is then diluted with water, extracted with DCM and passed through a phase separator. The organic phase is concentrated under reduced pressure and purified by gradient flash chromatography, eluting with mixtures of ethyl acetate and hexanes to afford 6-(2-chloro-6-methylpyridin-4-yl)-5-(4-fluorophenyl)-1,2,4-triazin-3-amine (61%).

reactant | 6-bromo-5-(4-fluorophenyl)-1,2,4-triazin-3-amine | 1 molar | BrC1=C(N=C(N=N1)N)C1=CC=C(C=C1)F | C9H6BrFN4
reactant | 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-6-methylpyridine | 1 molar | ClC1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C12H17BClNO2
reactant | K2CO3 | 1.5 molar | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | 6-(2-chloro-6-methylpyridin-4-yl)-5-(4-fluorophenyl)-1,2,4-triazin-3-amine | 61% | ClC1=NC(=CC(=C1)C1=C(N=C(N=N1)N)C1=CC=C(C=C1)F)C | C15H11ClFN5
